US08703758B2
B) tert-butyl (2-fluoro-4,6-dimethoxyphenyl)carbamate
To a solution of tert-butyl (2,4-dimethoxyphenyl)carbamate (1.0 g) and tetramethylenediamine (1.4 mL) in THF (10 mL) was added 1.6 M n-butyllithium-hexane solution (7.5 mL) at −78° C., and the mixture was stirred at the same temperature for 20 min and then at 0° C. for 1 hr. To the reaction mixture was added a solution of N-fluoro-N-(phenylsulfonyl)benzenesulfonamide (1.8 g) in THF (10 mL) at −78° C., and the mixture was allowed to warm to room temperature and stirred for 15 hr. Saturated aqueous ammonium chloride solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate, washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (hexane/ethyl acetate) to give the title compound (530 mg).

reactant | tert-butyl (2,4-dimethoxyphenyl)carbamate | 1.0 g | COC1=C(C=CC(=C1)OC)NC(OC(C)(C)C)=O | C13H19NO4
reactant | tetramethylenediamine | 1.4 mL | NCCCCN | C4H12N2
reactant | N-fluoro-N-(phenylsulfonyl)benzenesulfonamide | 1.8 g | FN(S(=O)(=O)C1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C12H10FNO4S2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | tert-butyl (2-fluoro-4,6-dimethoxyphenyl)carbamate | 530 mg | FC1=C(C(=CC(=C1)OC)OC)NC(OC(C)(C)C)=O | C13H18FNO4
